US07060827B2
In like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 3-chloro-4-fluoroaniline were reacted to yield N2-(3-chloro-4-fluorophenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.75 (bd, 1H), 7.70 (bd, 1H), 7.18 (m, 1H), 7.10 (m, 1H), 6.90 (m, 2H), 6.75 (m, 1H), 4.20 (bs, 4H); LCMS: ret. time: 25.04 min.; purity: 99%; MS (m/e): 392 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3-chloro-4-fluoroaniline | ClC=1C=C(N)C=CC1F | C6H5ClFN
product | N2-(3-chloro-4-fluorophenyl)-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-2,4-pyrimidinediamine | ClC=1C=C(C=CC1F)NC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C18H13ClF2N4O2
